US07799814B2
Methyl 3-nitrobenzoate (940.7 mg; 5.19 mmol; 1 eq.) is dissolved in EtOH (24 ml). Hydrazine hydrate (4.04 ml; 83.09 mmol; 16 eq.) is added and the mixture is stirred 1 hour at rt. It is stirred at 60° C. for 6 hours and rt overnight. The precipitate formed is filtrated and dried under vacuo, affording 3-nitrobenzohydrazide as white-off solid (815.9 mg; 87%).

reactant | Methyl 3-nitrobenzoate | 5.19 mmol, 940.7 mg, 1 eq. | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1 | C8H7NO4
reactant | Hydrazine hydrate | 83.09 mmol, 4.04 ml, 16 eq. | O.NN
solvent | EtOH | 24 ml | CCO | C2H6O
product | 3-nitrobenzohydrazide | [N+](=O)([O-])C=1C=C(C(=O)NN)C=CC1 | C7H7N3O3
